US05399703
Step 2 5-[3-(2-Nitrophenoxy)phenyl]-1H-tetrazole
In 40 ml of N,N-dimethylformamide was dissolved 4.0 g of 3-(2-nitrophenoxy)benzonitrile followed by addition of 2.28 g of sodium azide and 1.88 g of ammonium chloride, and the mixture was stirred at 110° C. for 4 hours. After cooling, the reaction mixture was acidified with diluted hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with water twice, dried and concentrated. The residue was crystallized from ethyl acetate-benzene to give 3.6 g of the title compound as light brown crystals.

reactant | 3-(2-nitrophenoxy)benzonitrile | 4.0 g | [N+](=O)([O-])C1=C(OC=2C=C(C#N)C=CC2)C=CC=C1 | C13H8N2O3
reactant | sodium azide | 2.28 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.88 g | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 5-[3-(2-Nitrophenoxy)phenyl]-1H-tetrazole | 3.6 g | [N+](=O)([O-])C1=C(OC=2C=C(C=CC2)C2=NN=NN2)C=CC=C1 | C13H9N5O3
